US07365088B2
(i) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(N-hydroxycarbamimidoyl)-1H-indazole -3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
To a solution of 200 mg 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-1H-indazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide in 3 mL methanol, 27 mg NH2OH*HCl and 44 mg KOt-Bu were added and the mixture was heated to 50° C. for 3 d. After cooling to RT the precipitated inorganic salts were filtered off. The precipitate was washed with methanol (2×5 ml) and the combined filtrates were collected and concentrated under reduced pressure. The residue was subjected to the next reaction step without further purification. Yield: 223 mg.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-cyano-1H-indazole-3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 200 mg | C(C)(C)N1CCC(CC1)NC(=O)C1=NN(C2=CC=CC(=C12)C#N)CC1=NOC(=C1)C=1SC(=CC1)Cl | C25H25ClN6O2S
reactant | NH2OH | 27 mg | NO | H3NO
reactant | HCl | Cl | ClH
reactant | KOt-Bu | 44 mg | CC(C)(C)[O-].[K+]
solvent | methanol | 3 mL | CO | CH4O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-4-(N-hydroxycarbamimidoyl)-1H-indazole -3-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NN(C2=CC=CC(=C12)C(NO)=N)CC1=NOC(=C1)C=1SC(=CC1)Cl | C25H28ClN7O3S
